US06121307
2-(2,3-Dihydrobenzo[-1,4]dioxin-5-yloxy)ethylamine
A solution of 2-(2,3-dihydrobenzo[1,4]dioxin-5-yloxy)ethylazide (3.43 g, 0.016 mol) and triphenylphosphine (6.3 g, 0.023 mol) in tetrahydrofuran (50 ml) and water (2 ml) was allowed to stir for 18 hours at room temperature. The solvent was removed under vacuum. Chromatography (30% methanol-methylene chloride plus ammonium hydroxide) afford 1.93 g (62%) of product as a yellow oil. MS FAB m/e 196 (M+H)+.

reactant | 2-(2,3-dihydrobenzo[1,4]dioxin-5-yloxy)ethylazide | 0.016 mol, 3.43 g | O1CCOC2=C1C=CC=C2OCCN=[N+]=[N-] | C10H11N3O3
reactant | triphenylphosphine | 0.023 mol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-(2,3-Dihydrobenzo[-1,4]dioxin-5-yloxy)ethylamine | 1.93 g, 62% | O1CCOC2=C1C=CC=C2OCCN | C10H13NO3
